US07432258B2
d) N-[1-(4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]-N-methyl-2-[7-(methyloxy)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetamide
[7-(methyloxy)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetic acid, lithium salt (106 mg, 0.44 mmol), [1-(4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]methylamine (122 mg, 0.44 mmol), triethylamine (91 uL, 0.66 mmol), and (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (BOP Reagent, 232 mg, 0.524 mmol) were added in that order to a 4 mL screw capped vial that contained 1 mL of anhydrous DMF. The reaction mixture was stirred for 20 hours at room temperature, after which time HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) showed that the reaction was complete. The solvent was removed under vacuum and the residue was dissolved in 2 mL of DMSO, filtered through a 0.2 um PTFE Acrodisk, and purified by reverse-phase HPLC (Phenomenex C-18, 50×100 mm, 80 mL/min, A: acetonitrile (0.1% TFA) B: water (0.1% TFA), A: 15 to 98% over 20 min, UV detection at 214 nm) to give the title compound (123 mg, 0.246 mmol, 56%) as the TFA salt in the form of an off-white solid. MS (ES) m/e 501 [M+H]+.

reactant | [7-(methyloxy)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetic acid | COC1=CC2=C(N(C(CO2)=O)CC(=O)O)C=C1 | C11H11NO5
reactant | lithium | 0.44 mmol, 106 mg | [Li] | Li
reactant | [1-(4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]methylamine | 0.44 mmol, 122 mg | C1(=CC=C(C=C1)C(CN1CCCC1)NC)C1=CC=CC=C1 | C19H24N2
reactant | triethylamine | 0.66 mmol, 91 uL | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 0.524 mmol, 232 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3CN H2O | CC#N.O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[1-(4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]-N-methyl-2-[7-(methyloxy)-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetamide | 0.246 mmol, 123 mg, 56% | C1(=CC=C(C=C1)C(CN1CCCC1)N(C(CN1C(COC2=C1C=CC(=C2)OC)=O)=O)C)C2=CC=CC=C2 | C30H33N3O4
